US06958384B2
(1S,2S)-2-Amino-cyclopentanecarboxylic acid (NH2-ACPC-OH, JKMI91, 5.18 g, 40.1 mmol) (See LePlae, Umezawa, Lee & Gellman (2001) J. Org. Chem. 66:5629-5632) was dissolved in methanol (409 mL). Triethylamine (11.16 mL, 80.2 mmol) was added via syringe followed by di-tert-butyl-dicarbonate (8.74 g, 40.1 mmol). The reaction mixture was stirred at room temperature for 2 h. The solvent was removed by rotary evaporation. The residue was diluted with ethyl acetate (250 mL), washed with 0.5 M NaHSO4 (1×100), and saturated aqueous NaCl solution (1×100). The organic layer was dried over MgSO4, filtered, and concentrated to give a white solid. The crude product was purified by column chromatography (7:3:0.3) hexane:ethyl acetate:acetic acid). Acetic acid was removed on the high-vacuum rotary evaporator. Benzene (2×100 mL) was added and removed on the rotary evaporator. The residue was dried under high vacuum overnight to give a white solid (Boc-ACPC-OH, JKMI103, 7.65 g, 83%). 1H NMR (250 MHz, CDCl3): δ=11.22 (br. s, 1H), 4.93 (br. s, 1H), 4.02 (br. s, 1H), 2.69 (br. s, 1H), 2.14-1.89 (m, 3H), 1.68 (quin., J=6.7 Hz, 2H), 1.51-1.35 (m, 10H) ppm.

reactant | (1S,2S)-2-Amino-cyclopentanecarboxylic acid | 40.1 mmol, 5.18 g | N[C@@H]1[C@H](CCC1)C(=O)O | C6H11NO2
reactant | Triethylamine | 80.2 mmol, 11.16 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 40.1 mmol, 8.74 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 409 mL | CO | CH4O
product | Boc-ACPC-OH | CC(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
